US07132546B2
To 5 mL of a tetrahydrofuran solution comprising 320 mg of 4-(3-chloro-5-trifluoromethyl-2-pyridyloxy)-3-(1-pyrrolyl)aniline and 110 mg of triethylamine, 5 mL of a tetrahydrofuran solution comprising 200 mg of 2-chloro-5-nitrobenzoylchloride was dropwise added, followed by stirring for about 30 minutes, and then water was added, and the precipitated crystals were collected by filtration. The collected crystals were washed with water and then dried to obtain 260 mg of N-(4-(3-chloro-5-trifluoromethyl-2-pyridyloxy)-3-(1-pyrrolyl)phenyl)-2-chloro-5-nitrobenzamide (Compound No. 127) having a melting point of from 165 to 167° C.

reactant | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
reactant | 4-(3-chloro-5-trifluoromethyl-2-pyridyloxy)-3-(1-pyrrolyl)aniline | 320 mg | ClC=1C(=NC=C(C1)C(F)(F)F)OC1=C(C=C(N)C=C1)N1C=CC=C1 | C16H11ClF3N3O
reactant | triethylamine | 110 mg | C(C)N(CC)CC | C6H15N
reactant | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
reactant | 2-chloro-5-nitrobenzoylchloride | 200 mg | ClC1=C(C(=O)Cl)C=C(C=C1)[N+](=O)[O-] | C7H3Cl2NO3
solvent | water | O | H2O
product | N-(4-(3-chloro-5-trifluoromethyl-2-pyridyloxy)-3-(1-pyrrolyl)phenyl)-2-chloro-5-nitrobenzamide | 260 mg | ClC=1C(=NC=C(C1)C(F)(F)F)OC1=C(C=C(C=C1)NC(C1=C(C=CC(=C1)[N+](=O)[O-])Cl)=O)N1C=CC=C1 | C23H13Cl2F3N4O4
